US08580763B2
In a 3000 ml three-mouth bottle, 2,6-dichloropurine (300 g), ethyl acetate (1500 ml), pyridinium salt of paratoluenesulfonic acid (3 g) are mixed. The above mixture is stirred and heated to a temperature of 35° C., 2,3-dihydropyrane (360 ml) is added thereto within 30 min. The above mixture is reacted at 50˜60° C. for 5 h. The completion of reaction is checked with TCL analysis. Triethylamine (240 ml) is added to the bottle, and cyclopropylamine (204 ml) is added thereto under refluxing within 30 min. The above mixture is reacted at the temperature for 0.5 h. The completion of reaction is checked with TCL analysis. The reaction is cooled to room temperature. After filtration, a filter cake is completely washed with ethyl acetate, and a filtrate is washed with water for 3 times and delaminated. Organic layer is concentrated till large amount of solid is separated out. After filtration, a filter cake is washed with ethyl acetate for 3 times and then dried in vacuum at 50° C. for 5 h to obtain solid compound 2-choro-N-cyclopropyl-9-(tetrahydro-2H-pyran-2-yl)-9H-purine-6-amine (364 g).

reactant | 2,6-dichloropurine | 300 g | ClC1=NC(=C2NC=NC2=N1)Cl | C5H2Cl2N4
reactant | ethyl acetate | 1500 ml | C(C)(=O)OCC | C4H8O2
reactant | 2,3-dihydropyrane | 360 ml | O1CCCC=C1 | C5H8O
reactant | cyclopropylamine | 204 ml | C1(CC1)N | C3H7N
solvent | Triethylamine | 240 ml | C(C)N(CC)CC | C6H15N
product | 2-choro-N-cyclopropyl-9-(tetrahydro-2H-pyran-2-yl)-9H-purine-6-amine | 364 g | ClC1=NC(=C2N=CN(C2=N1)C1OCCCC1)NC1CC1 | C13H16ClN5O
